US08084489B2
3-({5-[2,2-Dimethyl-1-(2-methyl-4′-trifluoromethyl-biphenyl-4-yloxy)-propyl]-thiophene-2-carbonyl}-amino)-propionic acid (chiral Isomer 1)
A solution of 3-({5-[2,2-dimethyl-1-(2-methyl-4′-trifluoromethyl-biphenyl-4-yloxy)-propyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester (chiral Isomer 1) (36 mg, 0.067 mmol) in methanol (1.0 mL) is treated with 5N NaOH (0.067 mL) and shaken at rt overnight. The reaction is neutralized with 1N HCl (0.068 mL), and extracted into ethyl acetate (2×). The combined organic layers are dried and concentrated, giving the title compound (21.6 mg). MS (ES): 520.3 [M+H]+.

reactant | 3-({5-[2,2-dimethyl-1-(2-methyl-4′-trifluoromethyl-biphenyl-4-yloxy)-propyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester | 0.067 mmol, 36 mg | COC(CCNC(=O)C=1SC(=CC1)C(C(C)(C)C)OC1=CC(=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C28H30F3NO4S
reactant | NaOH | 5N, 0.067 mL | [OH-].[Na+]
reactant | HCl | 1N, 0.068 mL | Cl | ClH
solvent | methanol | 1.0 mL | CO | CH4O
product | 3-({5-[2,2-Dimethyl-1-(2-methyl-4′-trifluoromethyl-biphenyl-4-yloxy)-propyl]-thiophene-2-carbonyl}-amino)-propionic acid | 21.6 mg | CC(C(OC1=CC(=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C)C1=CC=C(S1)C(=O)NCCC(=O)O)(C)C | C27H28F3NO4S
